US03994898
6-Methylamino-1,2,4-triazolo[4,3-b]pyridazin-3(2H)-one
20.5 g. of 6-chloro-1,2,4-triazolo[4,3-b]pyridazin-3(2H)-one (0.12 mol.) and a solution of 14.85 g. of methylamine (0.48 mol.) in 160 ml. of benzene are heated in an autoclave at 120° for 5 hours. After cooling, the precipitated product is filtered off and the filtrate is evaporated to dryness. Both portions of 6-methylamino-1,2,4-triazolo[4,3-b]pyridazin-3(2H)-one are treated with dilute aqueous hydrochloric acid, filtered off and recrystallized from water to give 15.8 g. (80%) of material, m.p. > 348° .

reactant | 6-chloro-1,2,4-triazolo[4,3-b]pyridazin-3(2H)-one | 0.12 mol | ClC=1C=CC=2N(N1)C(NN2)=O | C5H3ClN4O
reactant | methylamine | 0.48 mol | CN | CH5N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 6-Methylamino-1,2,4-triazolo[4,3-b]pyridazin-3(2H)-one | CNC=1C=CC=2N(N1)C(NN2)=O | C6H7N5O
